** Abstract buffered-reference LDO — REWRITTEN 2026-07-20 to match the owner's gf180 drawing
** (drawings/ldo-005-ti-ldo-buffer-ref/gf180/ldo/ldo.sch). The previous version modelled both
** amplifiers as 5T OTAs driven by IDEAL current sources; the drawing has since become two
** self-biased multi-stage amps, and those are now landed as their own verified accessions:
**   reference amp -> amp_033_ti_ldo_ref_selfbias  (9T two-stage Miller, matched PMOS mirror load)
**   error amp     -> amp_032_ti_ldo_error_selfbias (12T two-stage, level-shifted mirror load)
** Both are inlined FLAT here (hand-lowered), the same rationale ldo_007_pmos and the previous
** revision used: the lowering pipeline emits a foreign `.subckt` instance as a dangling reference,
** so cross-circuit composition is a separate hierarchical-netlist feature
** (doc/plan_hierarchical_composition.md, not started). Device geometry defaults below are the
** LANDED sizings of those two accessions, so this LDO starts from two independently verified amps
** rather than from scratch.
**
** WHY THE REWRITE: the old 5T netlist does not regulate. Measured 2026-07-20 (gf180mcu tt):
**   vout_dc 1.359 V against a 1.6 V target · load_reg 0.409 V (output collapses to 0.950 V)
**   line_reg 0.249 V · psrr_vdd_db 4.85 dB · loop gain 0.97 dB at DC
** i.e. essentially no loop gain at all. Note that the class's `loop_stability` proxy reported
** zout_peak_db = 0.0 for exactly that circuit, which reads as "beautifully damped" — a dead loop
** and a perfectly compensated one are INDISTINGUISHABLE to a peaking metric. That is what the new
** `ac_loopgain` bench exists to separate, and why this circuit now carries a loop-break marker.
**
** DEVICE NAMING — every inlined transistor MUST start with `XM`. circuitgraph's DeviceFactory
** dispatches on the instance-name prefix (device_factory.py: MOS_PREFIXES=("M","XM"),
** RES_PREFIXES=("R","XR"), ...). An earlier draft of this netlist named the two amps' devices
** XRA*/XEA*, which cost two silent failures: every XRA* was read as a RESISTOR, failed the 2-net
** arity check and was DROPPED from the graph (9 transistors gone, one warning), while every XEA*
** fell through unlowered and kept the generic `nmos`/`pmos` tokens instead of nfet_06v0/pfet_06v0
** — an unsimulatable deck. Both amps' own accessions use XM* throughout; keep it that way.
**
** Subckt port order (= circuit.yaml ports): vdd vout vss
**
** Signal path: vref -(ref amp, closed-loop gain (r_ref_top+r_ref_bot)/r_ref_bot)-> v_ref_out
**   -(RC lowpass)-> v_lpf_out -(error amp, in-)-> ea_out -> pass gate -> vout -(marker)-> in+.
** Loop polarity (negative feedback): vout^ -> ea_out^ -> Vsg(pass) v -> Ipass v -> vout v.
** Regulates to vout = v_lpf_out = v_ref_out = vref*(r_ref_top+r_ref_bot)/r_ref_bot.
** NOTE there is NO divider on vout itself — the error amp compares vout DIRECTLY against the
** filtered reference, so the reference amp's gain sets the output level and BOTH amps' input
** offsets land on vout un-attenuated (the ref amp's multiplied by its own closed-loop gain).
** That is why amp_033 was given a 5 mV vos spec and a matched (not ratioed) mirror load.
**.subckt ldo_005_buffered_ref vdd vout vss
**
** ---------------------------------------------------------------------------------------------
** internal ideal reference (a sim reference, NOT a silicon bandgap — vref_001_vgs is the real one)
** ---------------------------------------------------------------------------------------------
Vref vref vss dc {vref_val}
**
** ---------------------------------------------------------------------------------------------
** REFERENCE AMPLIFIER — amp_033_ti_ldo_ref_selfbias inlined (prefix XMRA_/net prefix ra_).
** Non-inverting gain stage: in+ = vref, in- = the r_ref_top/r_ref_bot divider tap.
** ---------------------------------------------------------------------------------------------
XMRA_BP ra_ibias ra_ibias vdd     vdd pmos w=x_dut_xmra_bp_w l=x_dut_xmra_bp_l
XMRA_B0 ra_ibias ra_ibias vss     vss nmos w=x_dut_xmra_b0_w l=x_dut_xmra_b0_l
XMRA_BC ra_tail  ra_ibias vss     vss nmos w=x_dut_xmra_bc_w l=x_dut_xmra_bc_l
XMRA_BO v_ref_out ra_ibias vss    vss nmos w=x_dut_xmra_bo_w l=x_dut_xmra_bo_l
XMRA_1  ra_na    v_ref_fb ra_tail vss nmos w=x_dut_xmra_1_w  l=x_dut_xmra_1_l
XMRA_2  ra_nb    vref     ra_tail vss nmos w=x_dut_xmra_2_w  l=x_dut_xmra_2_l
XMRA_3  ra_na    ra_na    vdd     vdd pmos w=x_dut_xmra_3_w  l=x_dut_xmra_3_l
XMRA_4  ra_nb    ra_na    vdd     vdd pmos w=x_dut_xmra_4_w  l=x_dut_xmra_4_l
XMRA_5  v_ref_out ra_nb   vdd     vdd pmos w=x_dut_xmra_5_w  l=x_dut_xmra_5_l
RRAz  ra_nb    ra_ncz   'r_ra_z'
CRAc  ra_ncz   v_ref_out 'c_ra_comp'
**
** feedback divider around the reference amp: v_ref_out = vref*(r_ref_top+r_ref_bot)/r_ref_bot
R1 v_ref_out v_ref_fb 'r_ref_top'
R2 v_ref_fb  vss      'r_ref_bot'
**
** ---------------------------------------------------------------------------------------------
** RC low-pass smoothing the buffered reference before the error amp sees it. This is the whole
** point of the "buffered reference" architecture: it attenuates the reference amp's own noise and
** ripple above its corner, so the error amp compares against a quiet reference.
** ---------------------------------------------------------------------------------------------
R_lpf v_ref_out v_lpf_out 'r_lpf'
C_lpf v_lpf_out vss       'c_lpf'
**
** ---------------------------------------------------------------------------------------------
** ERROR AMPLIFIER — amp_032_ti_ldo_error_selfbias inlined (prefix XMEA_/net prefix ea_).
** in+ = lp_brk (the regulated output, through the loop-break marker), in- = v_lpf_out.
** Stage 2 is a plain common-source driver off the first-stage output ea_nb — amp_032's stacked
** diode (and its bias sink) were removed there for the reasons in that circuit's header, and the
** same removal is mirrored here. That fix is what makes this LDO's DC point correct: with the
** stack in place the error amp needed ~417 mV across its inputs to balance, and vout settled that
** far below the reference.
** ---------------------------------------------------------------------------------------------
XMEA_BP ea_ibias ea_ibias vdd     vdd pmos w=x_dut_xmea_bp_w l=x_dut_xmea_bp_l
XMEA_B0 ea_ibias ea_ibias vss     vss nmos w=x_dut_xmea_b0_w l=x_dut_xmea_b0_l
XMEA_BC ea_tail  ea_ibias vss     vss nmos w=x_dut_xmea_bc_w l=x_dut_xmea_bc_l
XMEA_BF ea_nlev  ea_ibias vss     vss nmos w=x_dut_xmea_bf_w l=x_dut_xmea_bf_l
XMEA_BO ea_out   ea_ibias vss     vss nmos w=x_dut_xmea_bo_w l=x_dut_xmea_bo_l
XMEA_1  ea_na    v_lpf_out ea_tail vss nmos w=x_dut_xmea_1_w l=x_dut_xmea_1_l
XMEA_2  ea_nb    lp_brk    ea_tail vss nmos w=x_dut_xmea_2_w l=x_dut_xmea_2_l
XMEA_3  ea_na    ea_nd    vdd     vdd pmos w=x_dut_xmea_3_w  l=x_dut_xmea_3_l
XMEA_4  ea_nlev  ea_na    ea_nd   vdd pmos w=x_dut_xmea_4_w  l=x_dut_xmea_4_l
XMEA_5  ea_nb    ea_nd    vdd     vdd pmos w=x_dut_xmea_5_w  l=x_dut_xmea_5_l
** DC definition of the level-shifted mirror's gate rail (FIX 2026-07-25). ea_nd is
** otherwise fed only by leakage: it connects to XMEA_3/5 gates (no DC) and XMEA_4's
** source, whose channel current has no other supply — on BSIM4 (gf180mcu) the
** XMEA_4 source/n-well junction + gate leakage silently pin it, on leakage-free PSP
** (ihp-sg13g2) the node is singular and the DC sweeps latch to a stable wrong
** equilibrium (vout = VDD). The fix is a resistor TIE from the mirror drain (ea_na)
** to the gate rail: at DC (XMEA_4/XMBF carry ~0 by design) no current flows in it,
** so ea_nd = ea_na and XMEA_3/5 degenerate to a standard diode-connected mirror —
** defined at every vin, every model family — while XMEA_4 still provides the
** transient level-shift/feedforward path the TI structure intends. (A vdd->nd
** pull-up bleeder was tried first and rejected: it parks the mirror gates at vdd
** at low vin, killing stage-1 exactly where the dropout sweep needs it.) The SAME
** structure (and fix) applies to the TI drawings this LDO inlines: amp_032/033's
** XM3/XM4/XM5 'nd' rail — add r_nd from na to nd there too.
REAnd ea_na   ea_nd    'r_ea_nd'
XMEA_6  ea_out   ea_nb    vdd     vdd pmos w=x_dut_xmea_6_w  l=x_dut_xmea_6_l
REAz  ea_nb    ea_ncz   'r_ea_z'
CEAc  ea_ncz   ea_out   'c_ea_comp'
**
** ---------------------------------------------------------------------------------------------
** LOOP-BREAK MARKER (contract for the ldo/ac_loopgain bench — see that template's header).
** A 0 V source is an ideal short, so this is INVISIBLE to dc_op / regulation / psrr / transients:
** they all see the loop closed exactly as if the error amp's in+ were wired straight to vout.
** Only ac_loopgain turns it into a generator, via `alter @v.xdut.vlp[acmag]=1`.
** Injection point chosen per Middlebrook: source side = vout (low Z, driven by the pass device
** and the output cap), load side = a MOSFET gate (high Z).
** ---------------------------------------------------------------------------------------------
Vlp lp_brk vout dc 0
**
** ---------------------------------------------------------------------------------------------
** PMOS pass device: source=vdd, gate=ea_out, drain=vout
** ---------------------------------------------------------------------------------------------
XMP vout ea_out vdd vdd pmos w=x_dut_xmp_w l=x_dut_xmp_l m=x_dut_xmp_m
**
** Output network, straight from the drawing: a bleeder (minimum-load path, the source design's R3)
** and an ON-CHIP output capacitor (its C1). DELIBERATELY NO outer Miller across the pass stage —
** the previous revision of this netlist carried an `Rz ea_out ncz` / `Cc ncz vout` pair, but the
** drawing has no such elements: each amplifier compensates itself internally (REAz/CEAc and
** RRAz/CRAc above) and the dominant output pole is set by C1 against the load. Re-adding an outer
** Miller would be a design change, not a transcription, so it is left out and the new ac_loopgain
** bench is the instrument that decides whether this compensation scheme actually holds.
** The class benches additionally hang their own COUT on vout to model the external capacitor;
** c_out_int is the on-die part and is a knob in its own right.
R3 vout vss 'r_bleed'
C1 vout vss 'c_out_int'
**.ends
.end
